US07855201B2
Step 1: 3-methoxyisonicotinaldehyde
To an cooled solution (−78° C. internal temp) of 0.192 g of methyl 3-methoxyisonicotinate in 10 mL of toluene was added 2 mL of 1 M diisobutyl aluminum hydride in toluene. After stirring 10 min the reaction was quenched with 5 mL of methanol and concentrated under reduced pressure. To a stirred solution of the residue (0.15 g) in 50 mL of dichloromethane was added 1 mL of water, then 1 g of MgSO4. The mixture was filtered and 0.75 g of activated MnO2 was added. The mixture was heated to reflux under nitrogen for 5 h, then cooled and filtered. Concentration under reduced pressure gave a resin: MS (m+1)=138.1.

reactant | methyl 3-methoxyisonicotinate | 0.192 g | COC1=C(C(=O)OC)C=CN=C1 | C8H9NO3
reactant | diisobutyl aluminum hydride | 1 M, 2 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxyisonicotinaldehyde | COC1=C(C=O)C=CN=C1 | C7H7NO2
